US06933311B2
5-isoquinolinylacetic acid
Ethyl 5-isoquinolinylacetate (1.15 g, 5.34 mmol) was dissolved in concentrated H2SO4 (12 mL) and heated at 100° C. for 2 hours. The reaction mixture was poured into ice (20 g) and the pH was adjusted to 6 with 50% NaOH/H2O. The mixture was allowed to set of several hours, filtered, and the filter cake was rinsed with water to provide the title compound. MS (ESI+) m/z 188 (M+H)+; 1H NMR (DMSO, 300 MHz) δ 4.07 (s, 2H), 7.67 (m, 2H), 7.83 (d, J 5.7, 1H), 8.05 (d, J 8.1, 1H), 8.53 (d, J 6.1, 1H), 9.32 (s, 1H), 12.50 (s, 1H); 13C NMR (DMSO, 75 MHz) δ 37.6 (CH2CO), 117.1 (CH, C4), 126.8, 127.0 (CH, C7 & C8), 128.4 (C), 131.1 (C), 132.0 (CH, C6), 134.4 (C), 143.0 (CH, C3), 152.7 (CH, C1), 172.3 (CO); Anal. Calcd for C11H9NO2: C, 70.58; H, 4.85; N, 7.48. Found: C, 70.42; H, 4.93; N, 7.34.

reactant | Ethyl 5-isoquinolinylacetate | 5.34 mmol, 1.15 g | C1=NC=CC2=C(C=CC=C12)CC(=O)OCC | C13H13NO2
reactant | NaOH H2O | [OH-].[Na+].O
solvent | H2SO4 | 12 mL | OS(=O)(=O)O | H2O4S
product | 5-isoquinolinylacetic acid | C1=NC=CC2=C(C=CC=C12)CC(=O)O | C11H9NO2
